US06008230
To a mixture of 8-(2,6-dichlorobenzoylamino)-3-formylquinoline (700 mg) and methyl methylsulfinylmethyl sulfide (302 mg) in tetrahydrofuran was added potassium tert-butoxide (501 mg) at 4° C., and the mixture was stirred for 30 minutes at the same temperature and then refluxed for 1.5 hours. The mixture was poured into cold saturated ammonium chloride solution and extracted with ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate and evaporated in vacuo. A mixture of the obtained residue in dichloromethane (3 ml) and 34% solution of hydrogen chloride in ethanol (5 ml) was stirred for 2 hours at ambient temperature. The mixture was concentrated in vacuo, and the residue was partitioned between ethyl acetate and saturated sodium bicarbonate solution. The organic layer was washed with brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by column chromatography on silica gel (ethyl acetate-n-hexane) to give 8-(2,6-dichlorobenzoylamino)-3-(ethoxycarbonylmethyl)quinoline (329 mg).

reactant | 8-(2,6-dichlorobenzoylamino)-3-formylquinoline | 700 mg | ClC1=C(C(=O)NC=2C=CC=C3C=C(C=NC23)C=O)C(=CC=C1)Cl | C17H10Cl2N2O2
reactant | methyl methylsulfinylmethyl sulfide | 302 mg | CS(=O)CSC | C3H8OS2
reactant | potassium tert-butoxide | 501 mg | CC(C)([O-])C.[K+]
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
product | 8-(2,6-dichlorobenzoylamino)-3-(ethoxycarbonylmethyl)quinoline | 329 mg | ClC1=C(C(=O)NC=2C=CC=C3C=C(C=NC23)CC(=O)OCC)C(=CC=C1)Cl | C20H16Cl2N2O3
